US08877801B2
To a 30 mL vial containing (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (41 mg, 0.10 mmol) was added DMF (3 mL), followed by 3,3,3-trifluoropropan-1-amine (13.94 mg, 0.12 mmol), HATU (54.1 mg, 0.14 mmol), and DIEA (0.050 mL, 0.28 mmol). The mixture was stirred at room temperature for 30 min after which the reaction was quenched with sat. aq. NH4Cl and diluted with DCM. The organic phase was collected (phase separator) and concentrated in vacuo onto silica gel. The crude material was purified by column chromatography (SiO2, 0-30% EtOAc/heptane) to afford (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-N-(3,3,3-trifluoropropyl)acrylamide (38 mg, 0.07 mmol, 72% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=7.64 (d, J=9.09 Hz, 2H), 7.45-7.56 (m, 3H), 7.42 (d, J=2.02 Hz, 1H), 7.25 (d, J=8.59 Hz, 1H), 6.90-7.02 (m, 5H), 6.47 (d, J=15.66 Hz, 1H), 3.88 (s, 3H), 3.74-3.85 (m, 3H), 3.54 (t, J=7.07 Hz, 2H), 2.34-2.56 (m, 2H). LC/MS (m/z, MH+): 528.3.

reactant | (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.10 mmol, 41 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)O)C2=CC=C(C=C2)OC)C1 | C25H20O5S
reactant | 3,3,3-trifluoropropan-1-amine | 0.12 mmol, 13.94 mg | FC(CCN)(F)F | C3H6F3N
reactant | HATU | 0.14 mmol, 54.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.28 mmol, 0.050 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-N-(3,3,3-trifluoropropyl)acrylamide | 0.07 mmol, 38 mg, 72% yield | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)NCCC(F)(F)F)C2=CC=C(C=C2)OC)C1 | C28H24F3NO4S
